US04877779
2-(5-Diethylaminopent-3-ynyl)-1,3-dithiane.
To a solution of 6-diethylaminohex-4-ynal (50 g, 290 mmol) in methylene chloride (600 mL) was added 1,3-propanedithiol (30 mL, 290 mmol). The solution was stirred at room temperature for 1 hour and then cooled in an ice-bath. Boron trifluoride etherate (40 mL, 290 mmol) was added and the solution was stirred at room temperature overnight. The mixture was washed with water (150 mL), 10% potassium hydroxide solution (2×300 mL), brine (3×100 mL) and dried (MgSO4). Evaporation of the solvent afforded an oil which was Kugelrohr distilled (oven 120° C., 0.1 mm Hg) to give 20 g of product. The residue was chromatographed on basic alumina (activity I) eluting with methylene chloride and the oil was redistilled by Kugelrohr to afford 14 g (45%) of product. 1H NMR (CDCl3) δ: 1.14 (t, 6H), 1.80-1.90 (m, 1H), 1.91 (q, 2H), 2.05-2.15 (m, 1H), 2.43 (t, 2H), 2.52 (q, 4H), 2.81-2.90 (m, 4H), 3.39 (d, 2H), 4.17 (t, 1H) ppm.

reactant | 6-diethylaminohex-4-ynal | 290 mmol, 50 g | C(C)N(CC#CCCC=O)CC | C10H17NO
reactant | 1,3-propanedithiol | 290 mmol, 30 mL | C(CCS)S | C3H8S2
reactant | Boron trifluoride etherate | 290 mmol, 40 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Diethylaminopent-3-ynyl)-1,3-dithiane | 20 g | C(C)N(CC#CCCC1SCCCS1)CC | C13H23NS2
